US09227985B2
Methyl 3-[7-(3,5-dimethylisoxazol-4-yl)-2-oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl]pyridine-2-carboxylate
A solution of 3-[7-(3,5-dimethylisoxazol-4-yl)-2-oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl]pyridine-2-carboxylic acid (294 mg, 0.7493 mmol) in methanol (60.0 mL) was treated with one drop of concentrated sulfuric acid and heated in a sealed tube overnight at 80° C. The reaction mixture was then concentrated to a crude residue. This residue was diluted with ethyl acetate (100 mL) and saturated aqueous sodium bicarbonate solution and stirred at room temperature for 1 hour. After dissolution, the aqueous layer was separated and extracted with ethyl acetate (2×). The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered, and concentrated to give the crude product. Purification by preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water containing 0.1% ammonium hydroxide, at flow rate of 60 mL/min) gave the desired product (300 mg, 99%) as a racemic mixture. 1H NMR (400 MHz, DMSO-d6) δ 8.63 (dd, J=4.6, 1.5 Hz, 1H), 7.56 (dd, J=8.1, 4.6 Hz, 1H), 7.29 (dd, J=8.1, 1.4 Hz, 1H), 6.89 (d, J=8.0 Hz, 1H), 6.80 (d, J=8.0 Hz, 1H), 6.00 (dd, J=2.9, 2.9 Hz, 1H), 4.53 (d, J=2.9 Hz, 2H), 3.91 (s, 3H), 2.26 (s, 3H), 2.09 (s, 3H); LCMS calculated for C21H19N4O5 (M+H)+: m/z=407.1. found: 407.0.

reactant | 3-[7-(3,5-dimethylisoxazol-4-yl)-2-oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl]pyridine-2-carboxylic acid | 0.7493 mmol, 294 mg | CC1=NOC(=C1C1=CC=C2C=3N(C(COC31)C=3C(=NC=CC3)C(=O)O)C(N2)=O)C | C20H16N4O5
reactant | methanol | 60.0 mL | CO | CH4O
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | Methyl 3-[7-(3,5-dimethylisoxazol-4-yl)-2-oxo-1,2,4,5-tetrahydroimidazo[1,5,4-de][1,4]benzoxazin-4-yl]pyridine-2-carboxylate | 300 mg, 99% | CC1=NOC(=C1C1=CC=C2C=3N(C(COC31)C=3C(=NC=CC3)C(=O)OC)C(N2)=O)C | C21H18N4O5
